US05360822
3'-(2-Aminoacetyl)-5'-fluoromethanesulfonanilide hydrochloride (1.7 g) was suspended in 70 ml of methanol, then 114 mg of sodium borohydride was added thereto with stirring at 5°-10° C. and the mixture was stirred at room temperature for 30 minutes. The solvent was evaporated and the residue was made into a free base using ion exchange resin (Dowex 50W X2) followed by recrystallizing from methanol-ethanol to give 1.07 g of (±)-3'-(2-amino-1-hydroxyethyl)-5'-fluoromethanesulfonanilide, m.p. 167°-169° C.

reactant | 3'-(2-Aminoacetyl)-5'-fluoromethanesulfonanilide hydrochloride | 1.7 g | Cl.NCC(=O)C=1C=C(NS(=O)(=O)C)C=C(C1)F
reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | (±)-3'-(2-amino-1-hydroxyethyl)-5'-fluoromethanesulfonanilide | 1.07 g | NCC(O)C=1C=C(NS(=O)(=O)C)C=C(C1)F | C9H13FN2O3S
